US07060841B2
Magnesium (3 g, 0.123 mole, 2 molar equiv.) was added to technical 1-propanol (100 ml) and the mixture was heated to reflux under nitrogen atmosphere. Then, sublimed iodine (0.2 g) as catalyst was added and the reflux was continued for 4 hours to obtain magnesium propoxide. Indazole-3-carboxylic acid (10 g, 0.0617 mole) was then added and the reflux was continued for 2 hours. Dimethyl sulfate (13.3 g, 10 ml, 0.105 mole, 1.7 molar equiv.) was added dropwise under reflux for 2 hours and the reflux was continued for a further 3 hours (the composition of the reaction mixture by HPLC was: 97.09% 1-MICA, 0.37% 2-MICA, and 2.54% ICA). The mixture was kept at room temperature overnight (the composition of the reaction mixture by HPLC was: 97.61% 1-MICA, 0.19% 2-MICA, and 2.21% ICA). Water (100 ml) and 46% aqueous sodium hydroxide solution were added to the reaction mixture to produce-pH of about 14. Then, conc. hydrochloric acid was added to the suspension to produce pH of about 4 and obtain a solution. The 1-propanol was removed under reduced pressure from the solution. The residuary mixture was stirred for 6 hours with a control of pH of about 4. The solid product was collected by filtration, washed with water (3×30 ml), and dried in oven at 50° C. overnight to give crude 1-MICA (10.2 g, 93.9% yield, purity by HPLC: 98.73%). The crude compound (10.2 g) was treated by slurry at heating under reflux in methanol-water (3:7) mixture (31 ml) for 4 hours. The precipitate was collected by filtration after cooling the mixture to room temperature, washed with methanol-water (3:7) mixture (3×10 ml), and dried in oven at 50° C. overnight to prepare pure 1-MICA (9.1 g, 83.8% yield, purity by HPLC: 99.71%).

reactant | Magnesium | 0.123 mole, 2 molar, 3 g | [Mg] | Mg
reactant | 1-propanol | 100 ml | C(CC)O | C3H8O
catalyst | iodine | 0.2 g | II | I2
product | magnesium propoxide | 93.9% yield | [O-]CCC.[Mg+2].[O-]CCC | InChI=1S/2C3H7O.Mg/c2*1-2-3-4;/h2*2-3H2,1H3;/q2*-1;+2
